### PR TITLE
[Merged by Bors] - feat(Analysis): two codiscrete-equal meromorphic functions have codiscrete-equal derivatives

### PR DESCRIPTION
**Pull request by wwylele**
---

AI usage disclosure: the first version of the proof was drafted by Aristotle

This lemma seems eligible for `@[gcongr]`. However I chose not to tag it because if I do, this `gcongr` will apply this to any goals that looks like `deriv f =ᶠ[codiscreteWithin U] deriv g` and generate side goals `MeromorphicOn`, even if the context has nothing to do with meromorphic functions.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/IsolatedZeros.lean [hunk 1]
```diff
@@ -128,3 +128,21 @@ theorem eventually_nhdsSet_eventuallyEq_codiscreteWithin (hf : MeromorphicOn f U
...
+  · have h : f =ᶠ[𝓝[≠] x] g := MeromorphicAt.eventuallyEq_nhdsNE_of_eventuallyEq_codiscreteWithin
+      (hf x hx) (hg x hx) hx hacc h
+    obtain ⟨V, hopen, hxV, hV⟩ := mem_nhdsWithin.mp h
+    filter_upwards [self_mem_nhdsWithin, mem_nhdsWithin_of_mem_nhds (hopen.mem_nhds hxV)]
+      with y hy hyV
+      using Or.inl <| EventuallyEq.deriv_eq <| eventuallyEq_of_mem
+      (inter_mem (hopen.mem_nhds hyV) (isOpen_ne.mem_nhds hy)) fun z hz ↦ hV hz
+  · rw [accPt_iff_frequently, not_frequently] at hacc
+    filter_upwards [self_mem_nhdsWithin, mem_nhdsWithin_of_mem_nhds hacc] with y hy _
+      using Or.inr (by grind)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/IsolatedZeros.lean]:
```suggestion
  · have h : f =ᶠ[𝓝[≠] x] g :=
      (hf x hx).eventuallyEq_nhdsNE_of_eventuallyEq_codiscreteWithin (hg x hx) hx hacc h
    filter_upwards [h.nhdsNE_deriv] using by simp +contextual
  · rw [accPt_iff_frequently_nhdsNE, not_frequently] at hacc
    filter_upwards [hacc] using by grind
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
